US08258140B2
DIPEA (5.21 mL, 29.93 mmol) was added to 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (obtained as described in Monatsh. Chem. 1972, 103, 1591) (6.06 g, 27.21 mmol) and 4-[4-[3-(4-acetylpiperazin-1-yl)propoxy]phenyl]piperidine (9.40 g, 27.21 mmol) in DMF (200 mL). The resulting solution was stirred at 80° C. for 1 hour. The reaction mixture was cooled to room temperature then evaporated to dryness. Water (600 mL) was then added and the mixture extracted with DCM (2×600 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude product was purified by flash silica chromatography, elution gradient 0 to 10% MeOH in DCM. Pure fractions were evaporated to dryness to afford 6-[4-[4-[3-(4-acetylpiperazin-1-yl)propoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (13.80 g, 95%) as an orange solid.

reactant | DIPEA | 29.93 mmol, 5.21 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 27.21 mmol, 6.06 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | 4-[4-[3-(4-acetylpiperazin-1-yl)propoxy]phenyl]piperidine | 27.21 mmol, 9.40 g | C(C)(=O)N1CCN(CC1)CCCOC1=CC=C(C=C1)C1CCNCC1 | C20H31N3O2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 6-[4-[4-[3-(4-acetylpiperazin-1-yl)propoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 13.80 g, 95% | C(C)(=O)N1CCN(CC1)CCCOC1=CC=C(C=C1)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C26H32F3N7O2
